US07846929B2
To 3-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-prop-2-yn-1-ol (142 mg) in chloroform (10 ml) was added triethylamine (77 μL) and methanesulfonyl chloride (49 μL). Stir at room temperature for 2 hours then partition between chloroform and brine, the combined organics were dried (MgSO4). The solvents were removed in vacuo to yield methanesulfonic acid 3-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-prop-2-ynyl ester (150 mg).

reactant | 3-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-prop-2-yn-1-ol | 142 mg | ClC=1N=C(C2=C(N1)C=C(S2)C#CCO)N2CCOCC2 | C13H12ClN3O2S
reactant | triethylamine | 77 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 49 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | methanesulfonic acid 3-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-prop-2-ynyl ester | 150 mg | ClC=1N=C(C2=C(N1)C=C(S2)C#CCOS(=O)(=O)C)N2CCOCC2 | C14H14ClN3O4S2
